US05399578
(S)-N-[3-Bromo-2 '-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-N-(1-carboxy-2-methyl-prop-1-yl)-N-pentanoyl-amine
A solution of 2.4 g (4 mmol) of N-[(3-bromo-2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester in 90 ml of dioxane is hydrogenated at 5 bar and at room temperature with the addition of 1.2 g of Pd/C (10%) until the calculated amount of hydrogen has been absorbed. After evaporation of the filtered solution, the evaporation residue is dissolved in 2N sodium hydroxide solution and extracted with ether, and the aqueous phase is rendered acidic with 2N hydrochloric acid. The title compound is obtained by extracting with ethyl acetate, drying and evaporating as a colourless foam (Rf 0.40, system A2), FAB-MS: m/e=514 (M+H)+.

reactant | N-[(3-bromo-2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester | 4 mmol, 2.4 g | C(C1=CC=CC=C1)OC([C@@H](N(C(CCCC)=O)CC1=C(C=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)Br)C(C)C)=O | C31H34BrN5O3
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | (S)-N-[3-Bromo-2 '-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-N-(1-carboxy-2-methyl-prop-1-yl)-N-pentanoyl-amine | BrC=1C=C(C=CC1CN(C(CCCC)=O)[C@@H](C(C)C)C(=O)O)C1=C(C=CC=C1)C1=NN=NN1 | C24H28BrN5O3
